US06890947B2
(S)-3-{1-[2-(2-Chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-5-yl}-2-ethoxy-propionic Acid
Starting from (S)-2-ethoxy-3-(1H-indol-5-yl)-propionic acid methyl ester and 4-chloromethyl-2-(2-chloro-phenyl)-5-methyl-oxazole, the title compound was obtained in 56% yield as a pale brown amorphous solid. MS: (M−H)− 437.2.

reactant | (S)-2-ethoxy-3-(1H-indol-5-yl)-propionic acid methyl ester | COC([C@H](CC=1C=C2C=CNC2=CC1)OCC)=O | C14H17NO3
reactant | 4-chloromethyl-2-(2-chloro-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=C(C=CC=C1)Cl | C11H9Cl2NO
product | (S)-3-{1-[2-(2-Chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-5-yl}-2-ethoxy-propionic Acid | 56% yield | ClC1=C(C=CC=C1)C=1OC(=C(N1)CN1C=CC2=CC(=CC=C12)C[C@@H](C(=O)O)OCC)C | C24H23ClN2O4
